US08236826B2
Production of N-[6-(4-{[2-(4-benzylpiperazin-1-yl)-2-oxoethyl]methylamino}-2-methylphenoxy)pyridin-3-yl]-4-trifluoromethylbenzamide
To a suspension of 1-(4-benzylpiperazin-1-yl)-2-{methyl[3-methyl-4-(5-nitropyridin-2-yloxy)phenyl]amino}ethanone (2.85 g, 6.0 mmol) in ethyl acetate (30 mL) was added 5% platinum-carbon (0.30 g) under a nitrogen atmosphere, and the resulting solution was stirred for 3 hours at 40° C. under a hydrogen atmosphere. The platinum-carbon was separated off with Celite, and the filtrate was concentrated. The residue was dissolved in THF (30 mL), and to this solution was added triethylamine (1.26 mL, 9.1 mmol) under ice cooling. To the resulting solution was then added dropwise 4-(trifluoromethyl)benzoyl chloride (1.16 mL, 7.8 mmol). This reaction solution was stirred overnight, then a saturated sodium bicarbonate solution was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, and then dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (dichloromethane:methanol=20:1). The resulting product was then recrystallized from a mixed solvent consisting of diisopropyl ether-acetone, to thereby yield 1.37 g of the title compound.

reactant | 1-(4-benzylpiperazin-1-yl)-2-{methyl[3-methyl-4-(5-nitropyridin-2-yloxy)phenyl]amino}ethanone | 6.0 mmol, 2.85 g | C(C1=CC=CC=C1)N1CCN(CC1)C(CN(C1=CC(=C(C=C1)OC1=NC=C(C=C1)[N+](=O)[O-])C)C)=O | C26H29N5O4
reactant | triethylamine | 9.1 mmol, 1.26 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)benzoyl chloride | 7.8 mmol, 1.16 mL | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum carbon | 0.30 g | [Pt].[C]
product | N-[6-(4-{[2-(4-benzylpiperazin-1-yl)-2-oxoethyl]methylamino}-2-methylphenoxy)pyridin-3-yl]-4-trifluoromethylbenzamide | C(C1=CC=CC=C1)N1CCN(CC1)C(CN(C1=CC(=C(OC2=CC=C(C=N2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1)C)C)=O | C34H34F3N5O3
